US07704663B2
As a thermoplastic resin there was used a 5:4:1 (by mole) of terephthalic acid, bisphenol A-ethylene oxide adduct and linear polyester obtained from cyclohexane dimethanol (Tg: 62° C.; Mn: 4,500; Mw: 10,000). To 100 parts by weight of this thermoplastic resin were then added 5 parts by weight of benzidine yellow as a colorant for yellow toner, 4 parts by weight of pigment red as a colorant for magenta toner, 4 parts by weight of phthalocyanine blue as a colorant for cyan toner or 5 parts by weight of carbon black as a colorant for black toner. These mixtures were each then heated and melt-mixed in a Banbury mixer, ground using a jet mill, and then classified using an air classifier to prepare a particulate material having d50 of 7 μm.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | bisphenol A ethylene oxide | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C1CO1
product | cyclohexane dimethanol | C1(CCCCC1)(CO)CO | C8H16O2
